US04220651
Step B: Preparation of (±)-1-methyl-4-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine
A solution of 0.86 g. (0.003 mol) of 1-methyl-4-(3-bromo-5-hydroxy-5H-dibenzo[a,d]cyclohepten-5-yl)piperidine in 30 ml. of trifluoroacetic acid and 15 ml. of trifluoroacetic anhydride is stirred and refluxed for 16 hours. The solvents are removed by evaporation on a rotary evaporator. The residue is dissolved in chloroform, and this chloroform solution is washed with sodium hydroxide solution, water, dried over magnesium sulfate, and filtered. Evaporation of the chloroform from the filtrate gives 0.88 g. of a yellow oil. This oil is dissolved in a minimum amount of absolute ethanol, treated with ethanolic HCl, and is cooled. The white crystalline material that precipitates is collected by filtration and is recrystallized from acetonitrile to give 0.67 g. of (±)-1-methyl-4-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine hydrochloride.

reactant | 1-methyl-4-(3-bromo-5-hydroxy-5H-dibenzo[a,d]cyclohepten-5-yl)piperidine | 0.003 mol | CN1CCC(CC1)C1(C2=C(C=CC3=C1C=C(C=C3)Br)C=CC=C2)O | C21H22BrNO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | HCl | Cl | ClH
reactant | (±)-1-methyl-4-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine hydrochloride | Cl.CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)Br)C=CC=C2
solvent | ethanol | C(C)O | C2H6O
product | (±)-1-methyl-4-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)Br)C=CC=C2 | C21H20BrN
